US06001849
46a. 2-(1-BOC-2-(S)-pyrrolidinyl)-6-bromofuro[3,2-b]pyridine
A sample of 5-bromo-2-iodo-3-pyridinol (0.60 g, 2.0 mmol), from above, was dissolved in DMF (3 mL), and Pd(PPh3)2Cl2 (0.07 g, 0.1 mmol), CuI (0.077 g, 0.4 mmol) and triethylamine (0.33 mL, 2.4 mmol) were added. The mixture was stirred under N2 at room temperature for 1 hour, then 1-BOC-2-(S)-ethynylpyrrolidine (0.429 g, 2.2 mmol), from Example 1c above, dissolved in DMF (1 mL), was added carefully. The reaction mixture was stirred at 60° C. for 16 hours, then cooled to room temperature. The reaction mixture was diluted with ether, then washed with 10% NaOH and brine. The organic extract was dried over MgSO4 and concentrated. The residue was chromatographed (silica gel; hexane/EtOAc, 5:1 to 2:1) to give the title compound (0.32 g, 43%): 1H NMR (CDCl3, 300 MHz) δ 1.32, 1.46 (2 s, 9H), 1.91-2.40 (m, 4H), 3.37-3.70 (m, 2H), 4.93-5.15 (m, 1H), 6.66 (s, 1H), 7.85 (s, 1H), 8.55 (s, 1H); MS (CI/NH3) m/z: 367, 369 (M+H)+.

reactant | 5-bromo-2-iodo-3-pyridinol | 2.0 mmol, 0.60 g | BrC=1C=C(C(=NC1)I)O | C5H3BrINO
reactant | triethylamine | 2.4 mmol, 0.33 mL | C(C)N(CC)CC | C6H15N
reactant | 1-BOC-2-(S)-ethynylpyrrolidine | 2.2 mmol, 0.429 g | C(=O)(OC(C)(C)C)N1[C@@H](CCC1)C#C | C11H17NO2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
catalyst | Pd(PPh3)2Cl2 | 0.1 mmol, 0.07 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.4 mmol, 0.077 g | [Cu]I
product | 2-(1-BOC-2-(S)-pyrrolidinyl)-6-bromofuro[3,2-b]pyridine | 0.32 g, 43% | C(=O)(OC(C)(C)C)N1[C@@H](CCC1)C1=CC2=NC=C(C=C2O1)Br | C16H19BrN2O3
